US09238639B2
A) Methyl 4-((3-chloro-5-methoxyphenyl)sulfanyl)-3-oxopentanoate
A mixture of 3-chloro-5-methoxybenzenethiol (1.90 g), methyl 4-bromo-3-oxopentanoate (2.50 g) and K2CO3 (1.80 g) in DMF (dry) (36.3 mL) was stirred at room temperature overnight. The reaction was quenched with H2O and diluted with EtOAc. The organic layer was separated, washed successively with water and brine, dried over MgSO4, and concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/hexane) to give the title compound (2.09 g).

reactant | 3-chloro-5-methoxybenzenethiol | 1.90 g | ClC=1C=C(C=C(C1)OC)S | C7H7ClOS
reactant | methyl 4-bromo-3-oxopentanoate | 2.50 g | BrC(C(CC(=O)OC)=O)C | C6H9BrO3
reactant | K2CO3 | 1.80 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 36.3 mL | CN(C)C=O | C3H7NO
product | Methyl 4-((3-chloro-5-methoxyphenyl)sulfanyl)-3-oxopentanoate | 2.09 g | ClC=1C=C(C=C(C1)OC)SC(C(CC(=O)OC)=O)C | C13H15ClO4S
